US05176933
One mole of octadecenylsuccinic anhydride (351 gm), 2.05 moles of hexadecanol (498 gm), 2.5 gm of adipic acid and one liter of toluene were combined in a boiling flask (with attached Dean-Stark trap) and refluxed for about 6 hours in the presence of the catalyst p-toluenesulfonic acid. Excess toluene was removed at ambient pressure. The residue was applied to a 200 gm silica gel column in 25 gm portions, and eluted with petroleum ether. Elution with petroleum ether gave dihexadecyl octadecenylsuccinate. Oleyl alcohol and other impurities were retained on the column. The dihexadecyl octadecenylsuccinate has a low melting point, is believed to have a greater oxidative stability than dioleyl octadecenylsuccinate of Example I, and can be used for the commercial production of calorie-reduced fried snack foods.

reactant | octadecenylsuccinic anhydride | One mole, 351 gm | C(=CCCCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C22H38O3
reactant | hexadecanol | 2.05 moles, 498 gm | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | adipic acid | 2.5 gm | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | one liter | C1(=CC=CC=C1)C | C7H8
product | dihexadecyl octadecenylsuccinate | C(=CCCCCCCCCCCCCCCCC)C(C(=O)OCCCCCCCCCCCCCCCC)CC(=O)OCCCCCCCCCCCCCCCC | C54H104O4
